US08314094B2
1) Synthesis of 1-(2-amino-5-chloropyridin-3-yl)-2,2,2-trifluoroethanone
N-(5-chloro-2-pyridinyl)-2,2-dimethylpropanamide (20.0 g, 94.0 mmol) and TMEDA (12.0 g, 103 mmol) were dissolved in t-butyl methyl ether (150 mL), and while stirring the reaction solution at −20° C., n-butyl lithium (2.66 M hexane solution, 88.3 mL) was added dropwise thereto. After stirring the reaction solution at 0° C. for 2 hours, the solution was cooled to −78° C. and ethyl trifluoroacetate (16.8 mL, 140 mmol) was added thereto. The temperature of the reaction solution was raised to 0° C. and the solution was stirred for 3 hours. Then, water and 2 N hydrochloric acid were sequentially added, and the pH of the reaction solution was adjusted to about 9. After the solution was diluted with ethyl acetate, the organic layer was separated and the solvent was evaporated under reduced pressure. To the residue, acetic acid (60 mL), concentrated hydrochloric acid (20 mL) and water (40 mL) were added, and the solution was stirred for 10 hours under heating at 100° C. After the solution was cooled to room temperature, the resulting solid was collected by filtration and washed with ethyl acetate. The obtained solid and sodium acetate (7.64 g) were mixed in water (15 mL) and t-butyl methyl ether (70 mL), and the solution was stirred at room temperature for 30 minutes. The solution was diluted with ethyl acetate, which was then washed with water and saturated brine, and dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure, whereby the objective compound (10.1 g, 47.8%) was obtained as a yellow solid.

reactant | N-(5-chloro-2-pyridinyl)-2,2-dimethylpropanamide | 94.0 mmol, 20.0 g | ClC=1C=CC(=NC1)NC(C(C)(C)C)=O | C10H13ClN2O
reactant | TMEDA | 103 mmol, 12.0 g | CN(C)CCN(C)C | C6H16N2
reactant | n-butyl lithium | 2.66 M, 88.3 mL | C(CCC)[Li]
reactant | ethyl trifluoroacetate | 140 mmol, 16.8 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | t-butyl methyl ether | 150 mL | COC(C)(C)C | C5H12O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(2-amino-5-chloropyridin-3-yl)-2,2,2-trifluoroethanone | NC1=NC=C(C=C1C(C(F)(F)F)=O)Cl | C7H4ClF3N2O
